### PR TITLE
Susy n1 conj foundation

### PR DESCRIPTION
**Pull request by pariandrea**
## Contents

Two files: a reusable conjugation layer for the tensor framework, and the N=1
chiral-sector indexing foundation rebuilt on top of it.

**`Relativity/Tensors/Conjugation/Basic.lean`** (new) — the abstract conjugation
structure for an arbitrary `TensorSpecies`. A `TensorSpecies.Conj` packages a
conjugation as basis-level data, and the file derives from it the conjugation map
`conjT` and its laws (involution, commutation with contraction).

**`Particles/SuperSymmetry/N1/Basic.lean`** (supersedes the current `Model`
foundation) — rebuilds the chiral-sector indexing data as a `TensorSpecies` over
a four-element colour type, and instantiates the conjugation structure on it.

## Motivation

The N=1 chiral sector needs a type-safe contraction `g^{IJ̄} D_I W D̄_J̄ W̄` and a
notion of complex conjugation in which reality and Hermiticity are phrased — the
Kähler metric is Hermitian, and the anti-chiral sector is the complex conjugate
of the chiral one. The previous `Model C A` data carried chiral and anti-chiral
labels as two distinct index types tied by an equivalence. This PR replaces that
with a single `TensorSpecies` over a colour type, where variance and holomorphy
are tracked by the colour and the involutions `τ` / `bar`, and adds the reusable
conjugation layer the sector is stated against.

## Scope

Foundational layer only. The downstream layers that build on this foundation live
on a separate branch and are not part of this PR. The conjugation layer is general.
This supersedes the `Model`-based `N1/Basic.lean` currently on master. Nothing
else on master imports that module, so the replacement is self-contained.

## AI disclosure

AI (Claude Code) was used extensively to draft definitions, proofs, and
documentation under my direction. I reviewed every declaration and take full
responsibility for the content.

## Author responsibility

I am a PhD student in theoretical physics. The development proves no novel
mathematics: the conjugation map is "`star` the components in a fixed basis", its
laws reduce to the reality of the contraction coefficients, and the chiral
species is the standard Kronecker-δ structure on `ι → ℂ`. Correctness rests on
Mathlib's tensor and basis API and on the machine-checked `TensorSpecies`
coherence laws. The whole development compiles under the kernel with no `sorry`
and no new axioms.

### `Relativity/Tensors/Conjugation/Basic.lean`

**The structure (§A)**
- `TensorSpecies.Conj` — a conjugation on a tensor species: the conjugate-colour
  involution `bar` (with `bar_involution`, and `bar_tau` that it commutes with
  the variance dual `τ`), the basis-label identification `barIdx_eq`, and the
  contraction coherence `conj_contrComm` (`star` of a contraction coefficient at
  `d` equals the coefficient at `bar d`).

**Conjugation of tensors (§B)**
- `Conj.componentReindex` — slotwise reindexing of component labels from
  `bar ∘ c` back to `c`.
- `Conj.conjT` — the conjugation map `Tensor c → Tensor (bar ∘ c)`: `star` the
  components and recolour by `bar`.
- `Conj.componentMap_conjT` — the components of `conjT t` are the `star` of those
  of `t`, reindexed.
- `componentMap_eq_repr` — `componentMap` is the basis representation
  `(Tensor.basis c).repr` definitionally; bridges the two notations.
- `Conj.conjT_smul`, `Conj.conjT_add` — conjugate-semilinearity (`star r` pulls
  out) and additivity.
- `Conj.conjT_eq_permT_iff` — componentwise criterion for `conjT t = permT σ h t'`;
  packages the `componentMap_conjT` expansion that reality and Hermiticity proofs
  would otherwise repeat by hand.

**The involution law (§C)**
- `Conj.permCond_bar_bar` — the identity permutation satisfies `PermCond` from `c`
  to `bar ∘ bar ∘ c`.
- `Conj.conjT_conjT` — conjugating twice returns the tensor, up to the
  `bar`-involution recolouring.

**Commutation with contraction (§D)**
- `Conj.contrCond_bar` — dual-coloured slots stay dual under `bar`.
- `Conj.conjT_contrT` — conjugation commutes with contracting two dual slots.

### `Particles/SuperSymmetry/N1/Basic.lean`

**Configuration and colours (§A, §B)**
- `ChiralScalarConfiguration ι = ι → ℂ` — the sector's only field data (retained).
- `ChiralColor` — the four colours chiral/anti × up/down, with the variance dual
  `tau` and the conjugate-colour involution `bar` (and `bar_bar`, `bar_tau`).

**Carrier, representation, basis (§C)**
- `chiralModule`, `chiralRep`, `chiralBasis` — constant families of the colour:
  every colour shares the carrier `ι → ℂ`, the trivial `G`-representation, and the
  indicator basis `piBasis`.

**The δ structure (§D)**
- `deltaBil`, `deltaContr`, `deltaCap` — the Kronecker-δ bilinear form,
  contraction, and cap over an abstract based module, with their computation
  lemmas (`deltaContr_tmul`, `_tmul_basis`, `_basis_basis`, `_comm`,
  `deltaCap_comm`) and the coherence laws feeding the species fields
  (`deltaUnit_symm`, `deltaContr_unit`, `deltaContr_metric`, and their underlying
  `deltaCap` / `deltaContr` forms).

**The species and its conjugation (§E, §F)**
- `chiralTensor` — the `TensorSpecies` over `ChiralColor`: every colour contracts
  by the δ pairing, with the δ cap as both metric and unit.
- `chiralTensor_contr_chiralBasis` — the contraction coefficient on basis vectors
  is the Kronecker δ.
- `chiralConjStructure` — the `TensorSpecies.Conj` instance for `chiralTensor`.
- `conjScalar`, `conjChiralCovector` — conjugation normalized back to the scalar
  `![]` and anti-covector `![antiDown]` colour lists, with `toField_conjScalar`,
  `repr_conjChiralCovector`, and `conjChiralCovector_add` / `_smul`.

### CODE REVIEW

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 1]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+
+-/
+
+/-- The chiral scalar configuration: a complex value for each chiral label. This is
+the sector's only field data. Declared as an `abbrev` so that unification sees
+through it to `α → ℂ` and applies Mathlib's function-space calculus lemmas directly. -/
 abbrev ChiralScalarConfiguration (ChiralIndexingType : Type*) := ChiralIndexingType → ℂ
 
+variable (ι : Type) [Fintype ι] [DecidableEq ι]
+variable (G : Type) [Group G]
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Is there a specific choice in `G` which you have in mind? Seems like the natural choice would be the rotations mixing the chiral indices?

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,299 @@
...
+public import Physlib.Relativity.Tensors.Contraction.Basic
+public import Physlib.Relativity.Tensors.Contraction.Basis
+public import Mathlib.Algebra.Star.Basic
+
+/-!
+
+# Conjugation structure on a tensor species
+
+## i. Overview
+
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Conjugation/Basic.lean:19]: I would start this by saying something about ho win addition to \tau, you might have a notion of a conjugate colour, and give an example.

Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean:19]: In general I think it would be nice if these doc-strings were a bit less verbose.

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,299 @@
...
+We prove `conjT_conjT`: conjugating a tensor twice returns it, up to the identity recolouring
+`bar ∘ bar ∘ c = c`. The supporting lemmas reconcile the iterated basis-label casts.
+
+-/
+
+omit [StarRing k] [∀ c, Fintype (basisIdx c)] [∀ c, DecidableEq (basisIdx c)] in
+/-- `basisIdxCongr` only depends on its endpoints up to `HEq` of the arguments: equal target
+colours and heterogeneously equal labels give equal casts. -/
+private lemma basisIdxCongr_heq_arg {c₁ c₂ d : C} (h₁ : c₁ = d) (h₂ : c₂ = d)
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Conjugation/Basic.lean]: This should go in the appropriate file not here.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 1 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: I kept the group action trivial on purpose here. The main point of this PR is the conjugation layer connecting an index to its conjugate, together with the contraction safety between chiral and anti-chiral indices. That conjugation structure is general, so it should be reusable beyond this sector, for instance for complex Lorentz tensors. Downstream it is what the Kähler metric g_{IJ̄} and the F-term potential g^{IJ̄} D_I W D̄_J̄ W̄ build on.

None of that needs the fields to carry a G-charge, so I left the representation trivial and G generic instead of committing to a specific symmetry.

I agree the natural choice is U(n) rotating the chiral indices (anti indices in the conjugate rep). My plan was to add that in a future PR. Does that sound reasonable to you, or would you rather see U(n) in from the start?

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean (hunk 3 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Moved basisIdxCongr_heq_arg to TensorSpecies/Basic.lean, next to basisIdxCongr and its other lemmas (basisIdxCongr_rfl, basisIdxCongr_apply_apply).

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean (hunk 2 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean:19]: I have added two examples and reduced verbosity.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 4]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+public import Mathlib.RepresentationTheory.Basic
+public import Mathlib.RepresentationTheory.Intertwining
+public import Mathlib.Data.Complex.Basic
+public import Mathlib.LinearAlgebra.Basis.Defs
+public import Mathlib.LinearAlgebra.StdBasis
+public import Mathlib.Algebra.Group.TransferInstance
+public import Mathlib.Algebra.Module.TransferInstance
+public import Mathlib.Algebra.Module.RingHom
+-- Contraction machinery for the type-safety smoke test below. Public because the test lives
+-- in the public section and references `TensorSpecies.Tensor` and `contrT`.
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Would remove these comments.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 5]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+public import Physlib.Relativity.Tensors.Contraction.Basic
+public import Physlib.Relativity.Tensors.Conjugation.Basic
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean:9]: Can we run #min_import at the bottom of this file, and replace what is here with the output of that. The number of imports looks quite large

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 6]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+  -- Each coherence law reduces, by case analysis on `c`, to the matching abstract δ lemma.
+  contr_tmul_symm c x y := by cases c <;> exact deltaContr_comm _ _ _
+  unit_symm c := by cases c <;> exact deltaUnit_symm _
+  contr_unit c x := by cases c <;> exact deltaContr_unit _ x
+  contr_metric c := by cases c <;> exact deltaContr_metric _
+
+/-- Type-safety smoke test. `chiralUp` and `chiralDown` are `τ`-dual, so a rank-2 tensor with
+those index colours admits the framework contraction `contrT`. A same-variance pair would
+fail the `τ`-hypothesis `S.τ (c I) = c J`, which is exactly the safety the species provides. -/
+example (t : (chiralTensor (ι := ι) (G := G)).Tensor
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Would remove

Comment (jstoobysmith) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Like with below, or lift them to theorems

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 7]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+list `![antiDown]`. -/
+def conjChiralCovector
+    (t : (chiralTensor (ι := ι) (G := G)).Tensor ![chiralDown]) :
+    (chiralTensor (ι := ι) (G := G)).Tensor ![antiDown] :=
+  permT ![0] ⟨by decide, fun i => by fin_cases i; rfl⟩
+    (chiralConjStructure.conjT t)
+
+/-- For scalar tensors, `toField` of the normalized tensor conjugate is the complex conjugate of
+`toField`. -/
+theorem toField_conjScalar (t : (chiralTensor (ι := ι) (G := G)).Tensor ![]) :
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Should be lemmas

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: If we are going to make the action trivial, I think we should replace G with the trivial group rather then keeping it general.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 8]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+
+### D.1. The bilinear form, contraction, and cap
+
+-/
+
+variable {M : Type*} [AddCommGroup M] [Module ℂ M]
+
+/-- The δ bilinear form: the dot product of coordinate vectors in a basis `b`,
+`(x, y) ↦ ∑_I (b x)_I (b y)_I`. -/
+def deltaBil (b : Basis ι ℂ M) : M →ₗ[ℂ] M →ₗ[ℂ] ℂ :=
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: A definition for this might already exist, worth checking.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 9]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+
+/-- The δ contraction `M ⊗ M → ℂ`: the bilinear form `deltaBil` lifted to the tensor
+product. -/
+def deltaContr (b : Basis ι ℂ M) : M ⊗[ℂ] M →ₗ[ℂ] ℂ := TensorProduct.lift (deltaBil b)
+
+/-- The δ cap `∑_I b_I ⊗ b_I`: the rank-2 tensor in `M ⊗ M` with two upper indices, whose
+components in the basis `b` are `δⁱʲ`. It is an element of `M ⊗ M` (the inverse-metric "cap"
+dual to `deltaContr`), not a linear map, and serves as both the metric and the unit of the
+species. -/
+def deltaCap (b : Basis ι ℂ M) : M ⊗[ℂ] M := ∑ I, b I ⊗ₜ[ℂ] b I
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean:215]: I think with these you have definitional abuse, since you really want to consider the M's as different spaces.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean [hunk 10]
```diff
@@ -5,82 +5,572 @@ Authors: Andrea Pari
...
+`chiralRep`, and `chiralBasis` are constant in `c`; the colour is only the bookkeeping label that
+`τ` and `bar` act on.
+
+-/
+
+/-- The carrier module of each colour: every colour shares the single carrier `ι → ℂ`. The
+distinctions between colours (variance and holomorphy) are recorded by the colour and the maps
+`τ`/`bar`, not by the carrier, so all four colours live in the same space. -/
+@[nolint unusedArguments]
+def chiralModule : ChiralColor → Type := fun _ => ι → ℂ
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/N1/Basic.lean]: I would think about the physics here: Do you actually want 4 different vector spaces. If so, I think it is better to define them as separate types now.

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,276 @@
...
+(a colour and its conjugate share basis labels). The one substantive field is `conj_contrComm`, that
+the contraction coefficients are unchanged by `star`; this is what makes conjugation commute with
+contraction (§D), and here it is `star δ = δ`.
+
+-/
+
+/-- A conjugation on a tensor species. Carries the conjugate-colour involution `bar`, the
+index-set identification `barIdx_eq`, and the contraction-coherence `conj_contrComm`. Also carries
+`bar_involution` and `bar_tau` (that `bar` is involutive and commutes with the variance dual). -/
+structure Conj (S : TensorSpecies k C G V basisIdx rep b) where
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Maybe worth thinking about if `structure Congj extends TensorSpecies ....` would work/is better

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 1 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Done. Replaced the generic (G : Type) [Group G] with Unit.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 9 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean:215]: Done. chiralModule now gives each colour its own carrier: ι → ℂ for chiralUp, Module.Dual ℂ (ι → ℂ) for chiralDown, and the ConjModule of each on the anti side (where i acts as −i). Variance is the vector/dual axis and holomorphy the conjugate-module axis, so the four colours are genuinely distinct spaces rather than one space with labels.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 8 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: It exists. removed.

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean (hunk 11 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Done. ConjTensorSpecies now extends TensorSpecies, carrying bar, bar_involution, bar_tau, barIdx_eq, and conj_contrComm as additional fields.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 5 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean:9]: done.  Removed unused imports.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 6 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Removed.

File: Physlib/Particles/SuperSymmetry/N1/Basic.lean (hunk 7 above)
Comment (pariandrea) [reply Physlib/Particles/SuperSymmetry/N1/Basic.lean]: Done.

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,356 @@
...
+coordinates at the conjugate colour (the index sets agree by `barIdx_eq`). It is the single-slot
+shadow of `conjT`, packaged as a bundled equivalence so the Hermitian-metric layer can apply it to a
+metric slot. Semilinearity is built in via the coordinate `star`; invertibility is `star`'s
+involutivity together with `bar`'s.
+
+-/
+
+/-- The conjugate-linear slot isomorphism `V c ≃ₛₗ[starRingEnd k] V (bar c)`: conjugate the
+coordinates in the species basis and relabel to the conjugate colour via `barIdx_eq`. -/
+def slotConj {c : C} : V c ≃ₛₗ[starRingEnd k] V (S.bar c) :=
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Conjugation/Basic.lean]: I think we can probably think of a better name for this e.g. `conjEquiv` is better

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,356 @@
...
+    (ψ : ComponentIdx (S := S) c) : componentMap c t ψ = (Tensor.basis c).repr t ψ := rfl
+
+omit [StarRing k] in
+/-- Two tensors with the same colour sequence are equal when all their components agree. -/
+private lemma componentMap_ext {n : ℕ} {c : Fin n → C} {t₁ t₂ : S.Tensor c}
+    (h : ∀ b, componentMap c t₁ b = componentMap c t₂ b) : t₁ = t₂ := by
+  rw [← ofComponents_componentMap c t₁, ← ofComponents_componentMap c t₂]
+  congr 1; funext b; exact h b
+
+end TensorSpecies
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Move the above lemmas to `Tensor.Basic` or similar

**Review by jstoobysmith — COMMENTED** [review]
I have left a couple more comments. But I like this approach a lot!

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean (hunk 12 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Done. Renamed slotConj → conjEquiv (and slotConj_basis → conjEquiv_basis).

File: Physlib/Relativity/Tensors/Conjugation/Basic.lean (hunk 13 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Conjugation/Basic.lean]: Moved componentMap_eq_repr and componentMap_ext to Physlib/Relativity/Tensors/Basic.lean, next to componentMap/basis (made componentMap_ext non-private so it stays usable here).

**Review by jstoobysmith — APPROVED** [review]
Ok, this now looks good to me. I've approved. Once the linters finish I can merge.

**Comment by pariandrea** [comment]
> Ok, this now looks good to me. I've approved. Once the linters finish I can merge.

Repushed for lean v4.31. All good. Thank you for the all the feedback!
